US06548493B1
(7aS,11aR)-2-(2,4-dichlorophenyl)-10-(4-pentenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline
The title compound was prepared by the method of Example 382 as a yellow oil (23 mg, 67%) from (7aS,11aR)-2-(2,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline (30 mg, 0.083 mmol) and 5-bromo-1-pentene (25 mg, 0.16 mmol). MS (CI, NH3): 427.1 (base, M+H).

reactant | (7aS,11aR)-2-(2,4-dichlorophenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | 0.083 mmol, 30 mg | ClC1=C(C=CC(=C1)Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCNC1 | C20H20Cl2N2
reactant | 5-bromo-1-pentene | 0.16 mmol, 25 mg | BrCCCC=C | C5H9Br
reactant | NH3 | N | H3N
product | (7aS,11aR)-2-(2,4-dichlorophenyl)-10-(4-pentenyl)-5,6,7a,8,9,10,11,11a-octahydro-4H-pyrido[3′,4′:4,5]pyrrolo[3,2,1-ij]quinoline | ClC1=C(C=CC(=C1)Cl)C=1C=C2CCCN3C2=C(C1)[C@H]1[C@@H]3CCN(C1)CCCC=C | C25H28Cl2N2
